US04487626
A mixture of 4.0 g 3-carbethoxy-5-hexyn-2-one and 2.4 g guanidine carbonate was heated in 6 ml dimethylsulfoxide under a nitrogen atmosphere at 110°-120° for 2 hours. The solution was then cooled, acetone added and the solid collected then rinsed with water to afford 0.27 g of 4,6-dimethylfuro[2,3-d]pyrimidin-2-amine: m.p. 263°-265°. The above filtrates were diluted further with water and the deposited solid was collected and dried to give 0.44 g of 2-amino-6-methyl-5-(2-propynyl)-4(3H)pyrimidinone, m.p. 245°-249°. Absorptions at 2.1 (triplet), 2.55 (singlet), and 3.45 (doublet) ppm in the nuclear magnetic resonance spectrum (60 MHz) indicated the title compound.

reactant | 3-carbethoxy-5-hexyn-2-one | 4.0 g | C(=O)(OCC)C(C(C)=O)CC#C | C9H12O3
reactant | guanidine carbonate | 2.4 g | C(O)(O)=O.NC(=N)N
reactant | acetone | CC(=O)C | C3H6O
solvent | dimethylsulfoxide | 6 ml | CS(=O)C | C2H6OS
product | 4,6-dimethylfuro[2,3-d]pyrimidin-2-amine | 0.27 g | CC=1C2=C(N=C(N1)N)OC(=C2)C | C8H9N3O
